US05852023
6-Ethyl-5-methoxycarbonyl-4- (cis-4-trimethylsilylcyclohexylamino)pyrimidine
12.4 g (62.0 mmol) of 4-chloro-6-ethyl-5-methoxycarbonylpyrimidine, 11.1 g (62.0 mmol) of cis-4-trimethylsilylcyclohexylamine and 12.55 g (124 mmol) of triethylamine were heated in 30 ml of toluene at 90° C. for 3 hours. After complete reaction, the mixture was partitioned between dichloromethane and water to give, after further extraction with dichloromethane and column chromatography on silica gel, 17.76 g (85.4% of theory) of the cyclohexylaminopyrimidine as a pale brown oil, nD21 =1.5230.

reactant | 4-chloro-6-ethyl-5-methoxycarbonylpyrimidine | 62.0 mmol, 12.4 g | ClC1=NC=NC(=C1C(=O)OC)CC | C8H9ClN2O2
reactant | cis-4-trimethylsilylcyclohexylamine | 62.0 mmol, 11.1 g | C[Si]([C@H]1CC[C@H](CC1)N)(C)C | C9H21NSi
reactant | triethylamine | 124 mmol, 12.55 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 6-Ethyl-5-methoxycarbonyl-4- (cis-4-trimethylsilylcyclohexylamino)pyrimidine | C(C)C1=C(C(=NC=N1)N[C@@H]1CC[C@@H](CC1)[Si](C)(C)C)C(=O)OC | C17H29N3O2Si
